US04808595
2-Sulfamoylfuro[3,2-b]pyridine-4-oxide
To a suspension of 2-sulfamoylfuro[3,2-b]pyridine (647 mg, 3.27 mmol) in glacial acetic acid (8 mL) was added 30% hydrogen peroxide (0.6 mL). This suspension was warmed at 60° C. for four hours to give a clear solution. Upon cooling the reaction mixture and adding water the product crystallized out. This pure product (444 mg, 63.5% yield) was collected by filtration, washed with water, ethanol and diethyl ether, mp: 236°-237° C. (decomposition).

reactant | 2-sulfamoylfuro[3,2-b]pyridine | 3.27 mmol, 647 mg | S(N)(=O)(=O)C1=CC2=NC=CC=C2O1 | C7H6N2O3S
reactant | hydrogen peroxide | 0.6 mL | OO | H2O2
reactant | water | O | H2O
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 2-Sulfamoylfuro[3,2-b]pyridine-4-oxide | 444 mg, 63.5% yield | S(N)(=O)(=O)C1=CC2=[N+](C=CC=C2O1)[O-] | C7H6N2O4S
